US04367238
A mixture of 2-chlorophenyl 2-methoxy-3-chloromethylphenyl thioether (9.2 g) and sodium iodide (4.8 g) in dimethyl sulfoxide (50 ml) was stirred at room temperature. To the mixture was added powdered potassium cyanide (2.1 g) all at once, and the mixture was stirred at 70° C. for 3 hours. The reaction mixture was poured into ice-water and extracted with diethyl ether. The extract was washed with water, dried and then evaporated to give oily 2-[2-methoxy-3-(2-chlorophenylthio)phenyl]acetonitrile (8.9 g). This product was purified by column chromatography (silica gel 150 g, benzene) to give purified oily product (4.1 g).

reactant | 2-chlorophenyl 2-methoxy-3-chloromethylphenyl thioether | 9.2 g | COC1=C(C=CC=C1CCl)SC1=C(C=CC=C1)Cl | C14H12Cl2OS
reactant | sodium iodide | 4.8 g | [I-].[Na+]
reactant | potassium cyanide | 2.1 g | [C-]#N.[K+]
solvent | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
product | 2-[2-methoxy-3-(2-chlorophenylthio)phenyl]acetonitrile | 8.9 g | COC1=C(C=CC=C1SC1=C(C=CC=C1)Cl)CC#N | C15H12ClNOS
